Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___
 
___ Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None this hospitalization 

 
History of Present Illness:
Mr. ___ is an ___ man with complex medical history 
including ENRD ___ DM, HTN, obstruction) on HD (___) 
since ___, afib on Coumadin, CHF, PVD, hx of autonomic 
dysfunction, who presents with new onset weakness.

Patient was recently discharged on ___ after presenting with 
fevers/chills/hypotension s/p dental procedure. He was treated 
for presumed transient bacteremia, albeit Cx's were never 
positive. Per wife ___, since discharge patient was doing 
very well. His appetite and energy were much better.  Yesterday 
he began complaining of fatigue and weakness. This morning he 
appeared to be doing better but then complained of weakness 
again and could not feed himseld. He also had new productive 
cough. Wife keeps a food diary and said he did not eat anything 
out of the ordinary, but patient endorses eating bean soup, 
which he believes caused the increased K. "It's all my fault."

In the ED, initial vitals:   
Labs and Studies were notable for:
-VBG: pH 7.26 pCO2 58 pO2 30 HCO3 27 
- K 6.8 Cl 101, HCO3 21 BUN 61 Creat 8.0 
- WBC 12.3 Crit 40.9 Plt 183; INR was 2.0
- Wider QRS compared ot prior ECGs 
- ABG later showed Lactate 3.7, and increasing K of 7.7
Management
-He was given Vanc, Cefepime, Calcium gluconate, Insulin, D50, 
Calcium chloride and 2L NS 

In the ED K elevated to 7.7 and wide QRS compared to prior ECGs. 
Reports eating high K food at home. Had urgent HD in the ED as 
no ICU bed were immediately available.
  
On arrival to the MICU, bps is hemodynamically stable, getting 
HD.  

Review of systems:  
(+) Per HPI, transient episode of SOB at home,   
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain, chest pressure, palpitations. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency-but does not have much urine output at baseline. Denies 
arthralgias or myalgias. Denies rashes or skin changes.
 
Past Medical History:
ESRD on HD ___, since ___, HTN/T2DM/Obstructive 
Nephropathy)
CHF ___: LVEF= ___ with chronic transudative pleural 
effusions)
AFib on warfarin, propanolol
HTN
NIDDM - controlled with weight loss
Neurogenic Bladder
Gout
PVD
Hypothyroidism
Cricopharyngeal dysphagia ___ neck fracture
Sleep Apnea on CPAP
Anemia of chronic disease ___ renal dysfunction
Autonomic dysfunction - previously on midodrine and 
fludrocortisone
Chronic osteomyelitis ___ diagnosed by bone fragment biospy 
now s/p vanco/ceftaz
___ buttock hematoma (93)
Left arm radiocephalic AV fistula creation (___)
Superficialization of left arm AV fistula (___)
Repair of left arm arteriovenous fistula aneurysm (___)
Repair of LUE AVF aneurysm (___)
PleurX pleural drainage tube (___)
HCAP (___)
Left calcaneal osteomyelitis ___ diagnosed by MRI) to 
receive 6 week course vancomycin/ceftazidime.
Likely transient bacteremia in setting of dental procedure 
(___) 
 
Social History:
___
Family History:
His grandparents and father had hypertension and diabetes. No 
family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ADMISSION EXAM:
Vitals: T:97.9 BP:104/73 P:95 R:20 per my exam O2:100%RA  
GENERAL: comfortable, in no acute distress 
HEENT: PERRL, noninjected conjuctiva, oropharynx clear without 
erythema or exudate, no purulence from molars bilat
NECK: no LAD
LUNGS: clear to ausculation on the anterior lung fields, 
intermitten crackles at the bases posteriorlt, no wheezing
CV: irregular rhythm, normal-high rate, no murmurs, no rubs 
ABD: soft, non tender, non distended, normoactive bowel sounds
EXT: cool extremeties with 2+ pulses,  
SKIN: bilateral bandages with stable chronic wounds, no rashes, 
no petechiae 
NEURO: oriented to self, place, and date. 

DISCHARGE EXAM:
Temp: 7.7 BP 118/62 HR 87 RR 24 O2sat 95% on RA
GENERAL: comfortable, in no acute distress 
HEENT: PERRL, noninjected conjuctiva, oropharynx clear without 
erythema or exudate, no purulence from molars bilat
NECK: no LAD
LUNGS: clear to ausculation on the anterior lung fields, 
intermitten crackles at the bases posteriorlt, no wheezing
CV: irregular rhythm, normal-high rate, no murmurs, no rubs 
ABD: soft, non tender, non distended, normoactive bowel sounds
EXT: cool extremeties with 2+ pulses,  
SKIN: bilateral bandages with stable chronic wounds, no rashes, 
no petechiae. Bandage on R groin from removal of femoral line
NEURO: oriented to self, place, and date. 

 
Pertinent Results:
___ 11:13AM   GLUCOSE-151* LACTATE-3.7* NA+-144 K+-7.7* 
CL--107 TCO2-16*
___ 11:20AM   WBC-12.3* RBC-4.08* HGB-13.5*# HCT-40.9 
MCV-100* MCH-33.2* MCHC-33.0 RDW-16.4*
___ 07:57PM   UREA N-22* CREAT-4.0*# SODIUM-139 
POTASSIUM-3.9 CHLORIDE-97 TOTAL CO2-31 ANION GAP-15
___ 09:25PM   LACTATE-1.9

Discharge:

___ 04:40AM BLOOD WBC-7.8 RBC-3.08* Hgb-10.1*# Hct-30.0*# 
MCV-98 MCH-32.9* MCHC-33.8 RDW-16.4* Plt ___
___ 04:40AM BLOOD Plt ___
___ 04:40AM BLOOD Glucose-89 UreaN-28* Creat-4.4* Na-136 
K-4.1 Cl-97 HCO3-31 AnGap-12
___ 04:40AM BLOOD Calcium-9.5 Phos-3.7 Mg-2.0
 
Brief Hospital Course:
Mr. ___ presented to the emegrency department with weakness 
and fatigue as well as a cough. The patient reported a dietary 
indiscretion in the setting of ESRD on HD and was found to have 
an elevated potassium. Additionally, the patient had a transient 
drop in his BP in the ED with a SBP in the ___. This measurement 
was not reproducible in the MICU and may represent a false 
reading as it was taken on his radial. The patient never 
expressed chest pain, lightheadedness or feeling presyncopal. 
Due to a lack of beds, the patient was emergently dialysed in 
the ED and then admitted to the MICU. His electrolytes were 
rechecked and his potassium had normalized to 3.9. He remained 
hemodynamically stable throughout his stay in the ICU without 
any further hypotensive events.

#Afib: long-standing history of Afib with RVR, on coumadin. 
Given one episode of hypotension we halved propanolol and 
monitored heart rates on Tele and continued home Warfarin 3 mg 
daily. 

CHRONIC ISSUES
========================================================
# Osteomyelitis: Stable. Currently completing 6 week abx course. 
Vanc/ceftaz as an outpatient with HD through ___.  
- We dosed vanco with HD, ceftaz was given in ICU  
# ANEMIA: Hgb above goal  
- EPO 13,000 Units ___ as outpatient -> 4,000 units qHD while  

in house  
# CHF: Stable. Last echo on ___: LVEF= ___ with chronic 
transudative pleural. He had no evidence of acute cardiac 
process on exam or CXR.  
effusions)
-Monitored fluid balance; on HD.  
# NIDDM - monitored finger sticks closely
# Hypothyroidism - Continued home  Levothyroxine Sodium 100 mcg 
PO/NG DAILY 
# Sleep Apnea on CPAP
#Gout - Continued home Allopurinol 50 mg PO/NG EVERY OTHER DAY 
#GERD - Continued Home  Pantoprazole 40 mg PO Q12H 

TRANSITIONAL ISSUES
===================================================
Transitional Issues: 
- Consider 2k k+ bath instead of 3k k+ bath, especially on 
___
- Propranolol was dose-reduced to 60mg PO daily due to 
hypotension but home dose restarted at discharge. 
-Should have outpt CBC to follow up thrombocytopenia, as Vanc 
can induce thrombocytopenia . Dr ___ aware of this in 
person prior to discharge.
- Femoral line from R groin removed with pressure applied for 
20minutes before discharge. Dressing clean and dry. Patient 
given warning signs in the event of bleed and asked to be as 
flat as possible for the next ___ hours.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol 50 mg PO EVERY OTHER DAY 
2. CefTAZidime 2 g IV POST HD (___) 
3. CefTAZidime 3 g IV POST HD (SA) 
4. Cinacalcet 30 mg PO 3X/WEEK (___) 
5. Finasteride 5 mg PO DAILY 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Midodrine 10 mg PO QAM 
8. Midodrine 7.5 mg PO QPM 
9. Nephrocaps 1 CAP PO DAILY 
10. Pantoprazole 40 mg PO Q12H 
11. Propranolol LA 120 mg PO DAILY 
12. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
13. Vancomycin 1000 mg IV HD PROTOCOL 
14. B complex with C#20-folic acid 1 mg oral daily 
15. Warfarin 3 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol 50 mg PO EVERY OTHER DAY 
2. CefTAZidime 2 g IV POST HD (___) 
3. CefTAZidime 3 g IV POST HD (SA) 
IF ON HD, administer dose on the ward after patient returns from 
each hemodialysis session.  
4. Cinacalcet 30 mg PO 3X/WEEK (___) 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Midodrine 10 mg PO QAM 
7. Midodrine 7.5 mg PO QPM 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
11. Vancomycin 1000 mg IV HD PROTOCOL 
12. Warfarin 3 mg PO DAILY 
13. B complex with C#20-folic acid 1 mg oral daily 
14. Finasteride 5 mg PO DAILY 
15. Propranolol LA 120 mg PO DAILY 
16. Outpatient Lab Work
Please Draw CBC for thrombocytopenia. 
Labs should be faxed to ___ at ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: 
1. hyperkalemia 
2. end stage renal disease on HD ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at the ___. 

You were admitted with high potassium levels. This is likely 
related to eating high potassium foods. Further, your dialysis 
center can likely decrease the dose of potassium you get during 
your dialysis sessions. Our nephrologists have reached out to 
them to discuss this. 

While you were here, you underwent dialysis and your potassium 
returned to normal. Remember, high potassium levels can kill you 
so eat low potassium foods and go to dialysis.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

We wish you all the best, 

Your ___ Team 
 
Followup Instructions:
___